US04851519
A solution of 0.4 g of 1-(5-azido-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil in 20 ml of ethanol was hydrogenated at room temperature and under atmospheric pressure in the presence of 0.1 g of 10% palladium-on-carbon catalyst for 24 hours. The catalyst was removed by filtration and the filtrate was evaporated. The residue was triturated with diethyl ether and the solid was removed by filtration, washed with ethyl acetate and dried in vacuo to give 0.3 g of 1-(5-amino-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil as a white solid.

reactant | 1-(5-azido-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil | 0.4 g | N(=[N+]=[N-])C[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)F)O | C11H14FN5O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 1-(5-amino-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil | 0.3 g | NC[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)F)O | C11H16FN3O4
